US06171578B2
A solution of saturated sodium bicarbonate (1.0 liter) was placed in a 4 liter Ehrlenmeyer flask along with 1.0 liter of ethyl acetate. The biphasic mixture was stirred at a rate that insured mixing and 5-benzyloxyanthranilic acid, benzyl ester, hydrochloride (50.0 g, 135 mmol) was added portionwise to the stirred mixture. After addition was complete, the mixture was stirred an additional 15 minutes. The layers were partitioned in a separatory funnel and the aqueous layer was extracted with ethyl acetate (500 mL). The combined organics were dried over MgSO4, filtered, and concentrated in vacuo to yield the free base, which was dissolved in anhydrous DMF (700 mL) under an atmosphere of argon. 2,6-lutidine (20.0 mL, 172 mmol) was added to the solution followed by the addition of t-butyl bromoacetate (29.0 mL, 196 mmol). The reaction mixture was stirred at 70° C. under an atmosphere of argon for 48 hours. The DMF was removed on a rotary evaporator under high vacuum and the crude product residue was partitioned between ethyl acetate (1.0 liter) and water (500 mL). The organic layer was washed with saturated NaCl (250 mL) and dried over Na2SO4. The solution was filtered and concentrated in vacuo to yield crude product as a light brown solid. The product was recrystallized from 7% ethyl acetate/hexanes to yield N-(carbo-t-butoxymethyl)-5-benzyloxyanthranilic acid, benzyl ester (46.4 g, 79% yield).

reactant | sodium bicarbonate | 1.0 liter | C([O-])(O)=O.[Na+]
reactant | 5-benzyloxyanthranilic acid, benzyl ester, hydrochloride | 135 mmol, 50.0 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C(C(=O)OCC2=CC=CC=C2)=C1)N
reactant | 2,6-lutidine | 172 mmol, 20.0 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | t-butyl bromoacetate | 196 mmol, 29.0 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 700 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 1.0 liter | C(C)(=O)OCC | C4H8O2
product | N-(carbo-t-butoxymethyl)-5-benzyloxyanthranilic acid, benzyl ester | 46.4 g, 79% yield | C(=O)(OC(C)(C)C)CNC=1C(C(=O)OCC2=CC=CC=C2)=CC(=CC1)OCC1=CC=CC=C1 | C27H29NO5
